US04886835
The procedure is as in Example 2, starting with diethyl 2-dimethylamino-5-(3-phenoxybenzylthio)-2,4-hexadienedioate (7 g), 12N aqueous hydrochloric acid solution (23 cc) and ethanol (46 cc). The mixture is heated to boiling for 1 minute, and is then cooled to a temperature of approximately 20° C. After purification by chromatography on a silica column with dichloromethane as eluent, diethyl 2-hydroxy-5-(3-phenoxybenzylthio)-2,4-hexadienedioate (4.5 g) is obtained in the form of a yellow oil (Rf=0.2; thin layer chromatography on silica gel; eluent: dichloromethane).

reactant | diethyl 2-dimethylamino-5-(3-phenoxybenzylthio)-2,4-hexadienedioate | 7 g | CN(C(C(=O)OCC)=CC=C(C(=O)OCC)SCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C25H29NO5S
reactant | hydrochloric acid | 12N, 23 cc | Cl | ClH
reactant | ethanol | 46 cc | C(C)O | C2H6O
product | diethyl 2-hydroxy-5-(3-phenoxybenzylthio)-2,4-hexadienedioate | 4.5 g | OC(C(=O)OCC)=CC=C(C(=O)OCC)SCC1=CC(=CC=C1)OC1=CC=CC=C1 | C23H24O6S
